US08975254B2
(R)—N-(1-(3-(3-chloro-4-cyano-2-methylphenyl)-1H-pyrazol-1-yl)butan-2-yl)oxazole-4-carboxamide was prepared using the method of Example 34(d) starting from 4-oxazolecarboxylic acid (0.2 g, 1.769 mmol) and (R)-4-(1-(2-aminobutyl)-1H-pyrazol-3-yl)-2-chloro-3-methylbenzonitrile (0.532 g, 1.474 mmol). The product was triturated using diethyl ether. Yield 29.9%. 1H-NMR (400 MHz; CDCl3): δ 1.02 (t, 3H), 1.58 (m, 2H), 2.57 (s, 3H), 4.39 (m, 3H), 6.43 (d, 1H), 7.45 (d, 1H), 7.49 (d, 3H), 7.53 (dd, 1H), 7.58 (d, 1H), 7.85 (d, 1H), 8.22 (d, 1H).

reactant | 4-oxazolecarboxylic acid | 1.769 mmol, 0.2 g | O1C=NC(=C1)C(=O)O | C4H3NO3
reactant | (R)-4-(1-(2-aminobutyl)-1H-pyrazol-3-yl)-2-chloro-3-methylbenzonitrile | 1.474 mmol, 0.532 g | N[C@@H](CN1N=C(C=C1)C1=C(C(=C(C#N)C=C1)Cl)C)CC | C15H17ClN4
product | (R)—N-(1-(3-(3-chloro-4-cyano-2-methylphenyl)-1H-pyrazol-1-yl)butan-2-yl)oxazole-4-carboxamide | Yield 29.9% | ClC=1C(=C(C=CC1C#N)C1=NN(C=C1)C[C@@H](CC)NC(=O)C=1N=COC1)C | C19H18ClN5O2
